2158-06-07 07:35:00 Physician Resident Progress Note
Chief Complaint: Coffee ground emesis
   24 Hour Events:
 ENDOSCOPY - At [**2158-6-7**] 12:04 AM
   Grade 2 Esophageal varices
   Mucosa suggestive of Barrett's esophagus
   Blood in the pylorus and fundus
   Blood in the whole stomach
   Normal mucosa in the duodenum
   Otherwise normal EGD to third part of the duodenum
 INVASIVE VENTILATION - START [**2158-6-7**] 12:46 AM
   Overnight, patient became hypotensive 86/33. Received total 2.5L IV
   fluid boluses. Total urine output since 11pm 760ccs.
   T 101 7:30AM this AM
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2158-6-7**] 06:08 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2158-6-7**] 12:00 AM
   Midazolam (Versed) - [**2158-6-7**] 12:00 AM
   Propofol - [**2158-6-7**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-6-7**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 90 (78 - 111) bpm
   BP: 93/47(59) {75/16(33) - 132/77(89)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                      5 mL
                                                                  2,503 mL
   PO:
             TF:
   IVF:
                                                                      5 mL
                                                                  2,503 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    210 mL
   Urine:
                                                                    550 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -545 mL
                                                                  2,293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 29 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 96%
   ABG: ///27/
   Ve: 9.7 L/min
   Physical Examination
   Gen: Intubated, NGT in place. Arousable to voice, nods appropriately to
   questions.
   HEENT: NCAT.
   Heart: RRR, 2/6 systolic murmur
   Lungs: CTA anteriorly
   Abdomen: Morbidly obese, soft, mild diffuse tenderness; difficult to
   assess size of liver and spleen
   Extremities: Mild 1+ bilateral
   .
   Labs / Radiology
   84 K/uL
   12.3 g/dL
   106 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   24 mg/dL
   109 mEq/L
   142 mEq/L
   35.6 %
   12.6 K/uL
        [image002.jpg]
                             [**2158-6-7**]  01:59 AM
   WBC
   12.6
   Hct
   35.6
   Plt
   84
   Cr
   0.6
   Glucose
   106
   Other labs: PT / PTT / INR:20.5/39.0/1.9, ALT / AST:35/42, Alk Phos / T
   Bili:81/4.3, LDH:299 IU/L
   Assessment and Plan
   Mr. [**Known lastname 5651**] is a 59yo male with cirrhosis and known esophageal varices
   who presents with coffee ground emesis and positive NG lavage.
   .
   1)UGIB: Patient presents with coffee ground emesis and positive NG
   lavage in the setting of known varices. Endoscopy last night showed
   multiple blood clots.
   - Repeat endoscopy this AM performed. Banded 5 esophageal varices.
   - Continue Protonix, octreotride, cipro, flagyl
   - GI has recommended Carafate once patient extubated and can take pos.
   - Active type and screen
   - Hct TID. Transfuse to keep HCT > 30
   .
   2)Respiratory: Patient was electively intubated for airway protection
   for endoscopy. Received Propafol for sedation. RSBI 27.
   - Extubation after re-scope
   .
   3)Cirrhosis: Patient has known cirrhosis [**3-13**] NASH and ETOH. He has
   evidence of synthetic dysfunction given elevated INR. He has hx of
   encephalopathy.
   - Lactualose via NG tube
   - follow up liver recs
   - Hold Nadolol since pt is NPO
   .
   4) Cardiomegaly seen on CXR: Cardiac exam RRR, systolic murmur. No
   recent echo in our system.
   -obtain echo to eval for effusion vs. atrial dilatation
   .
   5) Fever and rising WBC: Patient may have aspirated with EGD or with
   placement of NG tube. CXR shows mild retrocardiac opacity
infiltrate
   vs. atelectasis. Will not start antibiotics unless patient continues to
   be febrile or has persistent leukocytosis.
   -obtain sputum culture prior to extubation.
   .
   4)Type 2 DM: Patient on Lantus and Humilin as an outpatient.
   - Hold outpatient regimen for now given that he is NPO
   .
   5)Peripheral neuropathy: Hold Neurontin for now since he is NPO.
   .
   6)FEN: advance diet to clears, IVFs
   .
   7)Prophylaxis: No heparin SQ given UGIB; pneumoboots; continue PPI
   .
   8)Access: 2 PIVs
   .
   9)Dispo: Pending above work-up
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-6-6**] 11:27 PM
   22 Gauge - [**2158-6-7**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-06-08 07:00:00 Physician Resident Progress Note
Chief Complaint: coffee ground emesis
   24 Hour Events:
 ENDOSCOPY - At [**2158-6-7**] 08:45 AM
 INVASIVE VENTILATION - STOP [**2158-6-7**] 12:10 PM
 SPUTUM CULTURE - At [**2158-6-7**] 12:51 PM
 ULTRASOUND - At [**2158-6-7**] 01:50 PM
 BLOOD CULTURED - At [**2158-6-7**] 06:36 PM
 FEVER - 101.2
F - [**2158-6-7**] 12:00 PM
   - extubated
   -had further episodes of melena after procedure yesterday
   - started on carafate and lactulose
   - sputum from [**6-7**] GS growing 4+ GPCs
   - echo preserved EF, trivial MR/TR
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2158-6-7**] 06:08 AM
   Ciprofloxacin - [**2158-6-8**] 12:53 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-6-7**] 08:20 AM
   Midazolam (Versed) - [**2158-6-7**] 09:12 AM
   Fentanyl - [**2158-6-7**] 09:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-6-8**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.2
C (99
   HR: 96 (79 - 99) bpm
   BP: 125/45(64) {87/32(46) - 134/61(76)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,452 mL
                                                                    528 mL
   PO:
                                                                  1,230 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  3,222 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    700 mL
   Urine:
                                                                  1,600 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,852 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 2%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 90%
   ABG: ///31/
   Ve: 11.3 L/min
   Physical Examination
   Gen: NAD
   HEENT: NCAT.
   Heart: RRR, 2/6 systolic murmur
   Lungs: CTA anteriorly
   Abdomen: Morbidly obese, soft, non tender, not distended; difficult to
   assess size of liver and spleen. No rebound or guarding
   Extremities: Mild 1+ bilaterally
   Neuro: Encephalopathic. + asterixis.
   Labs / Radiology
   54 K/uL
   11.7 g/dL
   194 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   24 mg/dL
   106 mEq/L
   140 mEq/L
   33.0 %
   4.4 K/uL
        [image002.jpg]
                             [**2158-6-7**]  01:59 AM
                             [**2158-6-7**]  09:44 AM
                             [**2158-6-7**]  06:33 PM
                             [**2158-6-7**]  11:56 PM
                             [**2158-6-8**]  03:54 AM
   WBC
   12.6
   4.4
   Hct
   35.6
   33.3
   37.4
   32.5
   33.0
   Plt
   84
   54
   Cr
   0.6
   0.6
   Glucose
   106
   194
   Other labs: PT / PTT / INR:22.2/44.5/2.1, ALT / AST:51/77, Alk Phos / T
   Bili:54/3.0, LDH:314 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.0
   mg/dL
[**2158-6-7**] 12:13 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2158-6-7**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
[**6-7**] RUQ US
   FINDINGS: [**Doctor Last Name **]-scale and color Doppler imaging was obtained in the
   right upper
   quadrant. The liver echotexture is coarse without evidence of focal
   lesion,
   similar to [**2158-3-7**]. There is no intra- or extra-hepatic biliary
   dilatation.
   The common bile duct measures 5 mm. Gallbladder wall thickening likely
   relates
   to fluid overload. There is no evidence of gallstones or cholecystitis.
   The
   main portal vein and its branches demonstrate normal waveforms and
   flow. The
   IVC and hepatic veins are patent and demonstrate normal anterograde
   flow. The
   main hepatic artery is patent with normal sharp upstroke and
   anterograde flow
   throughout. The splenic vein demonstrates normal waveforms and flow.
   Splenomegaly measuring up to 24 cm is unchanged since [**2158-3-7**].
   Incidentally
   noted is an avascular, anechoic, well circumscribed 1.5 cm lesion in
   the
   spleen which represents cyst.
   IMPRESSION: Stable exam since [**2158-3-7**]. Patent hepatic vasculature.
   Assessment and Plan
   Mr. [**Known lastname 5651**] is a 59yo male with cirrhosis and known esophageal varices
   who presents with coffee ground emesis and positive NG lavage.
   .
   1)UGIB: Patient presented with coffee ground emesis and positive NG
   lavage in the setting of known varices. Endoscopy  showed multiple
   blood clots. Had 5 esophageal varices banded. HCT over night 37.4 to
   33.0.  No active signs of bleeding. BP stable.
   - Continue Protonix, octreotride
   -D/c cipro, start ceftriaxone for SBP prophylaxis, given that we
   also treat for CA-pna (see below)
   - Continue Carafate and lactulose
   - Active type and screen
   - Hct TID. Transfuse to keep HCT > 30
   .
   2)Respiratory: Patient was electively intubated for airway protection
   for endoscopy. Extubated successfully yesterday.
   .
   3)Cirrhosis: Patient has known cirrhosis [**3-13**] NASH and ETOH. He has
   evidence of synthetic dysfunction given elevated INR. He has hx of
   encephalopathy.
   - Lactualose via NG tube
   - follow up liver recs
   - Hold Nadolol until HCT stabilizes. Consider restarting nadolol
   tomorrow
   -start Rifaximin
   .
   4) Cardiomegaly seen on CXR: Cardiac exam RRR, systolic murmur. No
   recent echo in our system. Echo from [**6-7**] shows mild MR [**First Name (Titles) 43**] [**Last Name (Titles) **]. No
   obvious effusion or ventricular dysfunction.
   .
   5) Fever and leukocytosis: Patient may have aspirated with EGD or with
   placement of NG tube. CXR shows LLL infiltrate. Sputum culture from
   [**6-7**] growing 4+ GPCs in pairs and clusters. Patient does not have
   abdominal pain.
   -consider starting Vancomycin and Ceftriaxone for CA-pneumonia
   -follow up sputum culture
   -obtain UA, Urine culture
   .
   6) Thrombocytopenia: Platelets dropping. Baseline 60-80s. If patient
   actively bleeding, would give FFP. This is likely secondary to liver
   disease. Not getting heparin, so less concerned for HIT.
   -continue to monitor daily
   .
   7)Type 2 DM: Patient on Lantus and Humilin as an outpatient.
   - SSI, qid fingersticks
   .
   8)Peripheral neuropathy: Restart outpatient neurontin
   .
   9)FEN: NPO, aspiration precautions. Maintenance IV fluids.
   .
   10)Prophylaxis: No heparin SQ given UGIB; pneumoboots; continue PPI
   .
   11)Access: 2 PIVs
   .
   12)Dispo: Pending stabilization of HCT
   13) Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-6-6**] 11:27 PM
   22 Gauge - [**2158-6-7**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-06-09 08:03:00 Physician Resident Progress Note
24 Hour Events:
   -HCT stable
   + black stool overnight
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2158-6-7**] 06:08 AM
   Ciprofloxacin - [**2158-6-8**] 12:53 AM
   Vancomycin - [**2158-6-8**] 12:00 PM
   Ceftriaxone - [**2158-6-8**] 12:30 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-6-8**] 08:02 PM
   Carafate (Sucralfate) - [**2158-6-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-6-9**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 90 (67 - 90) bpm
   BP: 106/37(53) {95/37(53) - 124/70(82)} mmHg
   RR: 24 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,423 mL
                                                                    934 mL
   PO:
                                                                    960 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,463 mL
                                                                    634 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    440 mL
   Urine:
                                                                  2,005 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    418 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   Gen: NAD
   HEENT: NCAT.
   Heart: RRR, 2/6 systolic murmur
   Lungs: CTA anteriorly
   Abdomen: Morbidly obese, soft, non tender, not distended; difficult to
   assess size of liver and spleen. No rebound or guarding
   Extremities: Mild 1+ bilaterally
   Neuro: Encephalopathic. + asterixis.
   Labs / Radiology
   46 K/uL
   11.3 g/dL
   276 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   103 mEq/L
   137 mEq/L
   33.2 %
   2.2 K/uL
        [image002.jpg]
                             [**2158-6-7**]  01:59 AM
                             [**2158-6-7**]  09:44 AM
                             [**2158-6-7**]  06:33 PM
                             [**2158-6-7**]  11:56 PM
                             [**2158-6-8**]  03:54 AM
                             [**2158-6-8**]  02:26 PM
                             [**2158-6-8**]  09:22 PM
                             [**2158-6-9**]  01:32 AM
   WBC
   12.6
   4.4
   2.2
   Hct
   35.6
   33.3
   37.4
   32.5
   33.0
   33.8
   30.3
   33.2
   Plt
   84
   54
   46
   Cr
   0.6
   0.6
   0.5
   Glucose
   106
   194
   276
   Other labs: PT / PTT / INR:18.6/41.3/1.7, ALT / AST:50/78, Alk Phos / T
   Bili:50/2.2, Albumin:2.6 g/dL, LDH:297 IU/L, Ca++:7.6 mg/dL, Mg++:1.6
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5651**] is a 59yo male with cirrhosis and known esophageal varices
   who presents with coffee ground emesis and positive NG lavage.
   .
   1)UGIB: Patient presented with coffee ground emesis and positive NG
   lavage in the setting of known varices. Endoscopy  showed multiple
   blood clots. Had 5 esophageal varices banded last AM. HCT stable over
   night.  No active signs of bleeding. BP stable.
   - Continue Protonix, octreotride
   - cont. ceftriaxone for SBP prophylaxis, given that we
ll also treat
   for CA-pna (see below)
   - Continue Carafate and lactulose
   - Active type and screen
   - Hct TID. Transfuse to keep HCT > 30
   .
   2)Respiratory: Patient was electively intubated for airway protection
   for endoscopy.
   .
   3)Cirrhosis: Patient has known cirrhosis [**3-13**] NASH and ETOH. He has
   evidence of synthetic dysfunction given elevated INR. He has hx of
   encephalopathy.
   - Lactualose
   - follow up liver recs
   - Hold Nadolol until HCT stabilizes. Consider restarting nadolol
   tomorrow
   - cont. Rifaximin
   .
   4) Cardiomegaly seen on CXR: Cardiac exam RRR, systolic murmur. No
   recent echo in our system. Echo from [**6-7**] shows mild MR [**First Name (Titles) 43**] [**Last Name (Titles) **]. No
   obvious effusion or ventricular dysfunction.
   .
   5) Fever and leukocytosis: CXR shows LLL infiltrate. Sputum culture
   from [**6-7**] growing 4+ GPCs in pairs and clusters, now speciated as staph
   aureus. Patient does not have abdominal pain.
   -consider starting Vancomycin and Ceftriaxone for CA-pneumonia
   - F/U BCx.
   6) Thrombocytopenia: Platelets dropping. Baseline 60-80s. If patient
   actively bleeding, would give FFP. This is likely secondary to liver
   disease. Not getting heparin, so less concerned for HIT.
   -continue to monitor daily
   .
   7)Type 2 DM: Patient on Lantus and Humilin as an outpatient.
   - SSI, qid fingersticks
   .
   8)Peripheral neuropathy: Restart outpatient neurontin
   .
   9)FEN: NPO as diet except for meds, aspiration precautions. Maintenance
   IV fluids.
   .
   10)Prophylaxis: No heparin SQ given UGIB; pneumoboots; continue PPI
   .
   11)Access: 2 PIVs
   .
   12)Dispo: Floor
   13) Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-6-6**] 11:27 PM
   22 Gauge - [**2158-6-7**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: